US04562294
Following the same general procedure as in Example I, 40 mmols of N,N-dimethyl-4-aminomethyl-2-methyl-6-t-butylphenol were reacted with 80 mmols of 1,3-butadiene in 81 g of toluene at about 207° C. for 10 hours. The uncorrected isolated yield of 2-methyl-4-t-butylspiro[5.5]undeca-1,4,8-trien-3-one was 83%.

reactant | N,N-dimethyl-4-aminomethyl-2-methyl-6-t-butylphenol | 40 mmols | CN(C)CC1=CC(=C(C(=C1)C(C)(C)C)O)C | C14H23NO
reactant | 1,3-butadiene | 80 mmols | C=CC=C | C4H6
solvent | toluene | 81 g | C1(=CC=CC=C1)C | C7H8
product | 2-methyl-4-t-butylspiro[5.5]undeca-1,4,8-trien-3-one | CC1=CC2(C=C(C1=O)C(C)(C)C)CC=CCC2 | C16H22O
